US05580986
5-Bromo-1-(4-chloro-5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-pyrazolecarbonitrile
5.68 g (19.7 mmol) 5-Amino-1-(4-chloro-5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-pyrazolecarbonitrile was dissolved in 66.3 ml hydrobromic acid (47%) and the mixture cooled to -6° C. Under a nitrogen atmosphere, 2.36 g (34.2 mmol) sodium nitrite in 5.9 ml water was added dropwise. The mixture was stirred for 15 minutes at this temperature and heated to room temperature. 200 ml water was then added and the mixture extracted 4 times with methylene chloride. The organic phase was washed with saturated aqueous sodium hydrogen carbonate, dried over magnesium sulfate and concentrated.

reactant | 5-Amino-1-(4-chloro-5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-pyrazolecarbonitrile | 19.7 mmol, 5.68 g | NC1=C(C=NN1C1=NN(C(=C1Cl)OC(F)F)C)C#N | C9H7ClF2N6O
reactant | sodium nitrite | 34.2 mmol, 2.36 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 66.3 ml | Br | BrH
solvent | water | 5.9 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 5-Bromo-1-(4-chloro-5-difluoromethoxy-1-methyl-3-pyrazolyl)-4-pyrazolecarbonitrile | BrC1=C(C=NN1C1=NN(C(=C1Cl)OC(F)F)C)C#N | C9H5BrClF2N5O
